US08802661B2
To a solution of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(isopentylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (0.204 g, 0.318 mmol) in THF (5 mL) was added a solution of lithium hydroxide monohydrate (0.040 g, 0.953 mmol) in H2O (1.000 mL). The resulting white slurry was stirred at rt overnight. After 15 h, TLC showed significant starting material left thus reaction was heated to 75° C. for 3 h. Reaction was treated with 1N HCl (1 mL) and concentrated to dryness. Material was absorpted onto silica gel, loaded onto a silica gel column (12 g cartridge) and was eluted with 0% B to 100% B for 180 mL and held 100% B for 600 mL (Solvents: A=100% DCM, B=90:10 DCM:MeOH). Obtained 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(isopentylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (182 mg, 0.281 mmol, 88% yield) as white solid. LCMS: m/e 628.6 (M−H)+, 2.45 min (method 5); 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.0 (2H, d, J=8.2 Hz), 7.3 (2H, d, J=8.5 Hz), 5.6 (1H, t, J=5.6 Hz), 5.3 (1H, dd, J=6.1, 1.8 Hz), 4.8 (1H, d, J=2.1 Hz), 4.6-4.6 (1H, m), 3.3-3.4 (1H, m), 3.2-3.3 (2H, m), 2.5-2.6 (1H, m), 2.1 (1H, dd, J=17.4, 6.4 Hz), 1.9-2.1 (2H, m), 1.7-1.8 (2H, m), 1.7 (3H, s), 1.6-1.7 (3H, m), 1.3-1.6 (11H, m), 1.2-1.3 (2H, m), 1.0 (6H, s), 1.0 (3H, s), 1.0 (6H, s), 0.9-1.0 (6H, m) 13C NMR(CHLOROFORM-d) δ ppm 14.4, 15.6, 16.2, 19.3, 19.5, 20.8, 21.1, 22.2, 22.3, 25.5, 25.7, 29.2, 30.7, 33.4, 33.6, 36.0, 37.2, 37.7, 38.2, 38.5, 40.4, 41.5, 42.2, 46.5, 49.3, 49.9, 52.6, 55.4, 77.3, 109.0, 124.0, 126.7, 128.9, 129.9, 145.9, 149.4, 150.8, 171.1, 175.7.

reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(isopentylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.318 mmol, 0.204 g | C(CC(C)C)NC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C43H63NO3
reactant | lithium hydroxide monohydrate | 0.953 mmol, 0.040 g | O.[OH-].[Li+]
reactant | HCl | 1N, 1 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.000 mL | O | H2O
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(isopentylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.281 mmol, 182 mg, 88% yield | C(CC(C)C)NC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C42H61NO3
